US05578620
2-phenylethoxymethyloxirane
A procedure similar to that described in Preparation 46 was repeated, except that 4.28 g of 2-phenylethanol, 1.68 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 4.1 ml of epibromohydrin and 100 ml of anhydrous dimethylformamide were used. The resulting crude product was purified by silica gel column chromatography, using a 8:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 4.68 g of the title compound as a colorless oil having an Rf value of 0.77 (on silica gel thin layer chromatography, using a 2:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 2-phenylethanol | 4.28 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | sodium hydride | 1.68 g | [H-].[Na+]
reactant | epibromohydrin | 4.1 ml | C(Br)C1CO1 | C3H5BrO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-phenylethoxymethyloxirane | 4.68 g | C1(=CC=CC=C1)CCOCC1OC1 | C11H14O2
